US08133882B2
1.02 g of 1-cyclobutylethylamine hydrochloride and 1.05 ml of triethylamine were added under ice-cooling to a 15 ml THF solution of 2.0 g of ethyl 2-(2-chloro-4,5-difluorobenzoyl)-3-ethoxyacrylate, followed by overnight stirring at room temperature. Water was added to the resulting reaction mixture, followed by extraction with ether and washing with water and aqueous saturated sodium chloride. After drying over anhydrous magnesium sulfate, concentration under a reduced pressure was carried out. 315 mg of 55% sodium hydride was added under ice-cooling to a 30 ml dioxane solution of the resulting residue, followed by overnight stirring at 80° C. The reaction mixture was poured into 1 M hydrochloric acid, followed by extraction with chloroform and washing with water and aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate and subsequent concentration under a reduced pressure, the resulting residue was purified by silica gel column chromatography to obtain 1.13 g of ethyl 1-(1-cyclobutylethyl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate.

reactant | 1-cyclobutylethylamine hydrochloride | 1.02 g | Cl.C1(CCC1)C(C)N
reactant | triethylamine | 1.05 ml | C(C)N(CC)CC | C6H15N
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | ethyl 2-(2-chloro-4,5-difluorobenzoyl)-3-ethoxyacrylate | 2.0 g | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1)F)F | C14H13ClF2O4
solvent | Water | O | H2O
product | ethyl 1-(1-cyclobutylethyl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.13 g | C1(CCC1)C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C18H19F2NO3
